US08293768B2
2-(3-(4-fluorobenzyl)-2-oxo-2,3-dihydro-1H-imidazol-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as described in Example 17, making variations as required to replace N-benzyl-2-(3-(4-fluorobenzyl)-5-hydroxy-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide with 2-(3-(4-fluorobenzyl)-5-hydroxy-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide, the title compound was obtained as a colorless solid in 81% yield: mp 158-159° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.58 (d, J=1.5 Hz, 1H), 8.49 (dd, J=4.5, 1.5 Hz, 1H), 7.69-7.65 (m, 1H), 7.26-7.16 (m, 4H), 7.04-6.97 (m, 2H), 6.47 (t, J=5.7 Hz, 1H), 6.29 (d, J=3.3 Hz, 1H), 4.78 (s, 2H), 4.58 (d, J=5.7 Hz, 2H), 2.62 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 162.6, 162.2, 153.5, 150.5, 149.2, 149.0, 135.6, 133.7, 131.3, 129.8, 123.6, 119.5, 116.1, 115.8, 113.1, 107.6, 46.7, 41.5, 17.2; MS (ES+) m/z 424.3 (M+1).

reactant | N-benzyl-2-(3-(4-fluorobenzyl)-5-hydroxy-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(N(CC1O)CC1=CC=C(C=C1)F)=O)C | C22H21FN4O3S
reactant | 2-(3-(4-fluorobenzyl)-5-hydroxy-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | FC1=CC=C(CN2C(N(C(C2)O)C=2SC(=C(N2)C)C(=O)NCC=2C=NC=CC2)=O)C=C1 | C21H20FN5O3S
product | 2-(3-(4-fluorobenzyl)-2-oxo-2,3-dihydro-1H-imidazol-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 81% yield | FC1=CC=C(CN2C(N(C=C2)C=2SC(=C(N2)C)C(=O)NCC=2C=NC=CC2)=O)C=C1 | C21H18FN5O2S
